US08017775B2
5-Acryloyloxymethyl-1-allyl-6-(2-methoxylphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Compound No. 7-1)
A mixture of 5-acryloyloxymethyl-6-(2-methoxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Compound No. 1-7, 50 mg, 0.14 mmol), allylbromide (111 μL, 1.28 mmol) and potassium carbonate (78 mg, 0.56 mmol) was suspended in anhydrous N,N-dimethylformamide (2 mL), and the reaction mixture was stirred at 60° C. for 4 days. After cooling down, it was diluted with ethyl acetate (25 mL). The whole was washed with water (30 mL, twice) and saturated brine (30 mL) successively, dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled compound (23 mg) as a pale yellow oil. (Yield 41%)

reactant | 5-acryloyloxymethyl-6-(2-methoxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline | C(C=C)(=O)OCC1=C2C(=CC(NC2=CC=C1C1=C(C=CC=C1)OC)(C)C)C | C23H25NO3
reactant | allylbromide | 1.28 mmol, 111 μL | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 0.56 mmol, 78 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | 5-Acryloyloxymethyl-1-allyl-6-(2-methoxylphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 23 mg, Yield 41% | C(C=C)(=O)OCC1=C2C(=CC(N(C2=CC=C1C1=C(C=CC=C1)OC)CC=C)(C)C)C | C26H29NO3
